US06057319
2-(S)-t-butyl-5-(R)-methyl-5-(2,2,2-trifluoroethyl)-1,3-dioxolan-4-one
To a solution of lithium diiospropylamide (prepared from 13 ml of diisopropylamine and 54 ml of 1.6 M n-BuLi in hexanes in 200 ml of anhydrous THF at 0° C.) at -72° C. was added slowly 2-(s)-t-butyl-5-(s)-methyl-1,3-dioxolan-4-one (12.95 g, 81.9 mmol, Tetrahedron, 1984, 40, 1313) at such a rate as to maintain the internal temperature below -60° C. and the mixture was aged at -72° C. for an hour. 1,1,1-Trifluoro-2-iodoethane (25 g, 119 mmol) was added quickly, the reaction temperature increased to -45° C. and the mixture was aged at -72° C. for 45 min. and then allowed to warm up to -20° C. over 20 min. Saturated aq. NH4Cl was then added and the product was extracted in i-PrOAc, dried over Na2SO4, concentrated and distilled under reduced pressure to afford 7.51 g of a brown oil BP 90° C./20 mm Hg.

reactant | lithium | [Li] | Li
reactant | diisopropylamine | 13 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 1.6 M, 54 ml | [Li]CCCC
reactant | 2-(s)-t-butyl-5-(s)-methyl-1,3-dioxolan-4-one | 81.9 mmol, 12.95 g | C(C)(C)(C)[C@H]1O[C@H](C(O1)=O)C | C8H14O3
reactant | 1,1,1-Trifluoro-2-iodoethane | 119 mmol, 25 g | FC(CI)(F)F | C2H2F3I
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 2-(S)-t-butyl-5-(R)-methyl-5-(2,2,2-trifluoroethyl)-1,3-dioxolan-4-one | 7.51 g | C(C)(C)(C)[C@H]1O[C@@](C(O1)=O)(CC(F)(F)F)C | C10H15F3O3
